* Library of Vishay NTC Thermistors for LTspice XVII
*
*
* $Revision:   4.0  $
* $Author:   Alain Stas  $
* $Date:   01 dec 2024 $
* $Revision History : addition of NTCS0402E3103_L1T
* addition of 0603/0805 1K/1K5/5K
* 11/03/2024 addition of NTCSC0402 10K/47K/100K
* 01 dec 2024 addition of NTCSC0201 10K/22K/47K/100K
* 16 dec 2024 addition of NTCSI0402 10K/47K/100K
*---------------------------------------------------------------
*
* Vishay NTC Thermistors included in this file : NTCLE100/NTCLE101/NTCLE201/NTCLE203/NTCS/NTCSC/NTCSI
* DESCRIPTION: through hole and surface mount NTC thermistors
* For power rating and temperature range limitations, see
* NTCLE100 : http://www.vishay.com/thermistors/list/product-29049/
* NTCLE101 : http://www.vishay.com/thermistors/list/product-29046/ and 29152
* NTCLE203 :http://www.vishay.com/thermistors/list/product-29048/ and 29118
* NTCS0402:http://www.vishay.com/thermistors/list/product-29003/
* NTCS0603:http://www.vishay.com/thermistors/list/product-29056/
* NTCS0805:http://www.vishay.com/thermistors/list/product-29044/
* NTCSC0402:http://www.vishay.com/thermistors/list/product-29238/
* NTCSC0201:http://www.vishay.com/thermistors/list/product-29243/
* NTCSI0402:http://www.vishay.com/thermistors/list/product-29244/
* or use the search engine of Vishay for visualizing particular data sheet at http://www.vishay.com/
*
* the model is applicable for transient and steady states conditions under bias including self heating.
* tolerances TolB on Steinhart & Hart coef. are valid only between 25 and 85 C,and are only given for information outside this range
* the tolerances on R25 and B25/85 are simulated by the values of R2 and R3 under the form of a random distribution using the LT spice MC function
*$
.SUBCKT NTC_BASE Rn Rp Params:W=1 X=1 Y=1 Z=1 GTH=1 GTH1=1 CTH=1 A=1 R25=1 B=1 C=1 D=1 T0=273.15
R2 tR 0 {mc(1,tolR/100)}
R3 tB 0 {mc(1,tolB/100)}
I1 tR 0 -1
I2 tB 0 -1
G_G1         AOUT 0 VALUE { if(TEMP>25,V(AOUT,
+  0)/(R25*V(TR)*exp(((D*v(TB)/(T0+abs(V(H))+TEMP)+C*V(TB))/(T0+abs(V(H))+TEMP)+B*v(TB))/(T0+TEMP+abs(V(H)))+A*v(TB))),0)
+  }
G_G2         AOUT 0 VALUE { IF(TEMP>25,0,V(AOUT,
+  0)/(R25*v(TR)*exp(((Z*v(TB)/(T0+abs(V(H))+TEMP)+Y*v(TB))/(T0+abs(V(H))+TEMP)+X*v(TB))/(T0+abs(V(H))+TEMP)+W*v(TB))))
+  }
G_G3         H 0 VALUE {
+  if(TEMP>25,-V(RP,RN)*V(RP,RN)/(R25*v(TR)*exp(((D*v(TB)/(T0+abs(V(H))+TEMP)+C*v(TB))/(T0+abs(V(H))+TEMP)+B*v(TB))/
+  (T0+TEMP+abs(V(H)))+A*v(TB))),0)}
G_G4         H 0 VALUE {
+  if(TEMP>25,0,-V(RP,RN)*V(RP,RN)/(R25*v(TR)*exp(((Z*v(TB)/(T0+abs(V(H))+TEMP)+Y*v(TB))/(T0+abs(V(H))+TEMP)+X*v(TB))/
+  (T0+TEMP+abs(V(H)))+W*v(TB))))}
G_G5         RP RN VALUE { V(RP, RN)/V(AOUT) }
G_G6         H 0 VALUE { V(H)*(Gth + Gth1*(TEMP-25)) }
I_I1         0 AOUT DC 1Adc
R_R1         0 AOUT  1T TC=0,0
R_R2         0 H  1T TC=0,0
C_C1         0 H  {Cth}
.IC V(H)=0
.ENDS
*$
*$
.SUBCKT NTCS0402E3103_L1T RN Rp  PARAMS: TR=0 TB=0
X114 Rn Rp NTC_BASE Params:
+ w=-11.1423334705573
+ x=2844.16925014123
+ y=241416.837060782
+ z=-29494710.26406
+ gth=0.0023 gth1 = 0.0000133
+ cth=0.0042
+ a=-11.1423334705573
+ r25=10000
+ b=2844.16925014123
+ c=241416.837060782
+ d=-29494710.26406
+ T0=273.15
+ TOLR=TR
+ TOLB=TB
.ENDS
*$
.SUBCKT NTCS0603E3102_LT RN Rp PARAMS: TR=0 TB=0
X115 Rn Rp NTC_BASE Params:
+ w=-9.24244884738525
+ x=1841.20084276919
+ Y=421961.783677252
+ Z=-44520624.0135324
+ gth=0.0031 gth1 = 0.00002
+ cth=0.0081
+ A=-9.24244884738525
+ R25=1000
+ B=1841.20084276919
+ C=421961.783677252
+ D=-44520624.0135324
+ T0=273.15
+ TOLR=TR
+ TOLB=TB
.ENDS
*$
.SUBCKT NTCS0603E3152_LT RN Rp PARAMS: TR=0 TB=0
X116 Rn Rp NTC_BASE Params:
+ w=-10.7101477067117
+ x=2899.36073524891
+ Y=155540.012245028
+ Z=-20251162.0477002
+ gth=0.0031 gth1 = 0.00002
+ cth=0.0081
+ A=-10.7101477067117
+ R25=1500
+ B=2899.36073524891
+ C=155540.012245028
+ D=-20251162.0477002
+ T0=273.15
+ TOLR=TR
+ TOLB=TB
.ENDS
*$
.SUBCKT NTCS0805E3502_LT RN Rp PARAMS:TR=0 TB=0
X117 Rn Rp NTC_BASE Params:
+ w=-10.8748489695554
+ x=2633.19491348966
+ Y=297530.667064886
+ Z=-34560112.9600088
+ gth=0.0048 gth1 = 0.0000267
+ cth=0.03216
+ A=-10.8748489695554
+ R25=5000
+ B=2633.19491348966
+ C=297530.667064886
+ D=-34560112.9600088
+ T0=273.15
+ TOLR=TR
+ TOLB=TB
.ENDS
*$
.SUBCKT NTCS0603E3502_LT RN Rp PARAMS: TR=0 TB=0
X118 Rn Rp NTC_BASE Params:
+ w=-12.746624791546
+ x=4159.15844734518
+ Y=-112818.729029691
+ Z=1746187.32843333
+ gth=0.0031 gth1 = 0.00002
+ cth=0.03216
+ A=-10.5178999769643
+ R25=5000
+ B=2129.00418980746
+ C=512792.147016091
+ D=-63381508.0761232
+ T0=273.15
+ TOLR=TR
+ TOLB=TB
.ENDS
*$
.SUBCKT NTCS0805E3152_LT RN Rp PARAMS:TR=0 TB=0
X119 Rn Rp NTC_BASE Params:
+ w=-11.4184510941507
+ x=3217.25238428639
+ Y=116125.772409905
+ Z=-17985711.922342
+ gth=0.0048 gth1 = 0.0000267
+ cth=0.0081
+ A=-11.4184510941507
+ R25=1500
+ B=3217.25238428639
+ C=116125.772409905
+ D=-17985711.922342
+ T0=273.15
+ TOLR=TR
+ TOLB=TB
.ENDS
*$
.SUBCKT NTCS0805E3102_LT RN Rp PARAMS: TR=0 TB=0
X119 Rn Rp NTC_BASE Params:
+ w=-11.7849424099388
+ x=3586.11774591627
+ Y=208.008759180584
+ Z=-6501205.44842637
+ gth=0.0048 gth1 = 0.0000267
+ cth=0.03216
+ A=-10.6277652219847
+ R25=1000
+ B=2543.7919491973
+ C=323716.786442856
+ D=-40968771.2220251
+ T0=273.15
+ TOLR=TR
+ TOLB=TB
.ENDS
$
.SUBCKT NTCSC0402E3103_LFT RN Rp  PARAMS: TR=0 TB=0
X120 Rn Rp NTC_BASE Params:
+ w=-25.93273595
+ x=15037.58474
+ y=-3002631.898
+ z=245802510.8
+ gth=0.0023 gth1 = 0.0000133
+ cth=0.0042
+ a=-11.78633398
+ R25=10000
+ b=2924.731541
+ c=420851.773
+ d=-73084463.23
+ T0=273.15
+ TOLR=TR
+ TOLB=TB
.ENDS
*$
.SUBCKT NTCSC0402E3473_XHT RN Rp  PARAMS: TR=0 TB=0
X121 Rn Rp NTC_BASE Params:
+ w=-23.36681733
+ x=11944.97635
+ y=-2031599.594
+ z=163195760.4
+ gth=0.0023 gth1 = 0.0000133
+ cth=0.0042
+ a=-12.33884702
+ R25=47000
+ b=1759.933563
+ c=1099682.704
+ d=-157293394.3
+ T0=273.15
+ TOLR=TR
+ TOLB=TB
.ENDS
*$
.SUBCKT NTCSC0402E3104_XHT RN Rp  PARAMS: TR=0 TB=0
X122 Rn Rp NTC_BASE Params:
+ w=-23.45938081
+ x=12026.39705
+ y=-2054767.643
+ z=165318811.8
+ gth=0.0023 gth1 = 0.0000133
+ cth=0.0042
+ a=-12.39462945
+ R25=100000
+ b=1821.677598
+ c=1077231.893
+ d=-154609964.4
+ T0=273.15
+ TOLR=TR
+ TOLB=TB
.ENDS
*$
.SUBCKT NTCSC0201E3103_LHT RN Rp  PARAMS: TR=0 TB=0
X120 Rn Rp NTC_BASE Params:
+ w=-13.24402061
+ x=4720.874312
+ y=-285766.5403
+ z=16560498.45
+ gth=0.001 gth1 = 0.0000133
+ cth=0.0006
+ a=-13.24402061
+ R25=10000
+ b=4720.874312
+ c=-285766.5403
+ d=16560498.45
+ T0=273.15
+ TOLR=TR
+ TOLB=TB
.ENDS
*$
.SUBCKT NTCSC0201E3223_LHT RN Rp  PARAMS: TR=0 TB=0
X120 Rn Rp NTC_BASE Params:
+ w=-13.17358627
+ x=4699.874312
+ y=-285766.5403
+ z=16560498.45
+ gth=0.001 gth1 = 0.0000133
+ cth=0.0006
+ a=-13.17358627
+ R25=22000
+ b=4699.874312
+ c=-285766.5403
+ d=16560498.45
+ T0=273.15
+ TOLR=TR
+ TOLB=TB
.ENDS
*$
.SUBCKT NTCSC0201E3473_XHT RN Rp  PARAMS: TR=0 TB=0
X121 Rn Rp NTC_BASE Params:
+ w=-15.4278593781869
+ x=5178.3042926108
+ y=-168070.296551787
+ z=-1313620.96762979
+ gth=0.001 gth1 = 0.0000133
+ cth=0.0006
+ a=-15.4278593781869
+ R25=47000
+ b=5178.3042926108
+ c=-168070.296551787
+ d=-1313620.96762979
+ T0=273.15
+ TOLR=TR
+ TOLB=TB
.ENDS
*$
.SUBCKT NTCSC0201E3104_XHT RN Rp  PARAMS: TR=0 TB=0
X122 Rn Rp NTC_BASE Params:
+ w=-16.3328663024788
+ x=5524.790436114
+ y=-189630.197550457
+ z=-1699957.71509011
+ gth=0.001 gth1 = 0.0000133
+ cth=0.0006
+ a=-16.3328663024788
+ R25=100000
+ b=5524.790436114
+ c=-189630.1976
+ d=-1699957.715
+ T0=273.15
+ TOLR=TR
+ TOLB=TB
.ENDS
.SUBCKT NTCSI0402E3103_LHT RN Rp  PARAMS: TR=0 TB=0
X120 Rn Rp NTC_BASE Params:
+ w=-13.24402061
+ x=4720.874312
+ y=-285766.5403
+ z=16560498.45
+ gth=0.0023 gth1 = 0.0000133
+ cth=0.0042
+ a=-13.24402061
+ R25=10000
+ b=4720.874312
+ c=-285766.5403
+ d=16560498.45
+ T0=273.15
+ T0=273.15
+ TOLR=TR
+ TOLB=TB
.ENDS
*$
.SUBCKT NTCSI0402E3473_XHT RN Rp  PARAMS: TR=0 TB=0
X121 Rn Rp NTC_BASE Params:
+ w=-15.4278593781869
+ x=5178.3042926108
+ y=-168070.296551787
+ z=-1313620.96762979
+ gth=0.0023 gth1 = 0.0000133
+ cth=0.0042
+ a=-15.4278593781869
+ R25=47000
+ b=5178.3042926108
+ c=-168070.296551787
+ d=-1313620.96762979
+ T0=273.15
+ TOLR=TR
+ TOLB=TB
.ENDS
*$
.SUBCKT NTCSI0402E3104_XHT RN Rp  PARAMS: TR=0 TB=0
X122 Rn Rp NTC_BASE Params:
+ w=-16.3328663024788
+ x=5524.790436114
+ y=-189630.197550457
+ z=-1699957.71509011
+ gth=0.0023 gth1 = 0.0000133
+ cth=0.0042
+ a=-16.3328663024788
+ R25=100000
+ b=5524.790436114
+ c=-189630.1976
+ d=-1699957.715
+ T0=273.15
+ TOLR=TR
+ TOLB=TB
.ENDS


